US07368578B2
To a mixture of potassium tert-butoxide (0.94 g) and dimethoxyethane (30 mL) was added p-toluenesulfonyl methylisocyanide (0.86 g) at −78° C., and a solution of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (1.96 g) in dimethoxyethane (50 mL)-tetrahydrofuran (10 mL) was added at −78° C. After stirring at the same temperature for 1 hr, the reaction mixture was heated to room temperature. Methanol (30 mL) was added to the obtained mixture, and the mixture was heated under reflux for 1 hr. After cooling, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}acetonitrile as colorless crystals (1.21 g, yield 61%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 153-154° C.

reactant | potassium tert-butoxide | 0.94 g | CC(C)([O-])C.[K+]
reactant | p-toluenesulfonyl methylisocyanide | 0.86 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.96 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dimethoxyethane | 50 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | water | O | H2O
solvent | Methanol | 30 mL | CO | CH4O
product | {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}acetonitrile | 1.21 g, yield 61% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2CC#N)C2=CC=CC=C2)C=C1)OC)C | C28H24N4O5
